US05057532
5.6 g of sodium hydroxide (50% by weight) are added to a solution of 5.1 g of triazole in 50 ml of N-methylpyrrolidone, and the mixture is heated at 50° C. for 30 minutes. Then, at room temperature, 10 g of trans-1-(2-tert-butyl-2-oxiranyl)-2-(2,4-dichlorophenyl)cyclopropane which is dissolved in 50 ml of N-methylpyrrolidone are slowly added dropwise. The reaction mixture is stirred at room temperature for 18 hours and then 100 ml of water are added to the solution and the mixture is extracted several times with methyl tert-butyl ether. The isolated organic phase is washed twice with water and then dried over sodium sulfate and concentrated. The remaining residue is purified by flash chromatography on silica gel (9:1 ethyl acetate/n-hexane), resulting in separation of the diastereomers. 7.4 g (60% overall yield) of trans-1-[1-tert-butyl-1-hydroxy-2-(1,2,4-triazol-1-yl)ethyl]-2-(2,4-dichlorophenyl)cyclopropane are obtained.

reactant | sodium hydroxide | 5.6 g | [OH-].[Na+]
reactant | triazole | 5.1 g | N1N=NC=C1 | C2H3N3
reactant | trans-1-(2-tert-butyl-2-oxiranyl)-2-(2,4-dichlorophenyl)cyclopropane | 10 g | C(C)(C)(C)C1(OC1)[C@H]1[C@@H](C1)C1=C(C=C(C=C1)Cl)Cl | C15H18Cl2O
reactant | water | 100 ml | O | H2O
reactant | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | trans-1-[1-tert-butyl-1-hydroxy-2-(1,2,4-triazol-1-yl)ethyl]-2-(2,4-dichlorophenyl)cyclopropane | 7.4 g, 60% | C(C)(C)(C)C(CN1N=CN=C1)(O)[C@H]1[C@@H](C1)C1=C(C=C(C=C1)Cl)Cl | C17H21Cl2N3O
